US06177423B1
2-Hydroxy-5-methoxy-6-(4-methyl-piperazin-1-yl)-benzo[de]isoquinoline-1,3-dione, Hydrochloride
2-Benzyloxy-6-bromo-5-methoxy-benzo[de]isoquinoline-1,3-dione (0.5 g, from Example Z) was reacted with N-methylpiperazine (30 mL) following the procedure of Example 18 to give 0.5 g of 2-benzyloxy-5-methoxy-6-(4-methyl-piperazin-1-yl)-benzo[de]isoquinoline-1,3-dione. Hydrogenation of 2-benzyloxy-5-methoxy-5-(4-methyl-piperazin-1-yl)-benzo[de]isoquinoline-1,3-dione (0.3 g) at 40 psi in the presence of Pd/C (10%) in DMA (20 mL) afforded 0.2 g of the title compound as the free base. A solution of acetyl chloride (0.03 mL) in ethanol (1mL) was added to a solution of 2-hydroxy-5-methoxy-6-(4-methyl-piperazin-1-yl)-benzo[de]isoquinoline-1,3-dione (0.12 g, 0.4 mmol) in ethanol (5 mL). The solution was stirred for 30 minutes, and the precipitate was filtered, washed with ether, and dried to give 0.13 g of the title compound as the HCl salt, mp 296-300° C.;

reactant | acetyl chloride | 0.03 mL | C(C)(=O)Cl | C2H3ClO
reactant | 2-hydroxy-5-methoxy-6-(4-methyl-piperazin-1-yl)-benzo[de]isoquinoline-1,3-dione | 0.4 mmol, 0.12 g | ON1C(C2=CC=CC=3C2=C(C1=O)C=C(C3N3CCN(CC3)C)OC)=O | C18H19N3O4
solvent | ethanol | 1mL | C(C)O | C2H6O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2-Hydroxy-5-methoxy-6-(4-methyl-piperazin-1-yl)-benzo[de]isoquinoline-1,3-dione, Hydrochloride | 0.13 g | Cl.ON1C(C2=CC=CC=3C2=C(C1=O)C=C(C3N3CCN(CC3)C)OC)=O | InChI=1S/C18H19N3O4.ClH/c1-19-6-8-20(9-7-19)16-11-4-3-5-12-15(11)13(10-14(16)25-2)18(23)21(24)17(12)22;/h3-5,10,24H,6-9H2,1-2H3;1H
